Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:12].[H:1][C:2]([H:3])([H:4])[C:5][O:6][C:7]#[C:8][C:9]([H:10])[H:11]>>[H:1][C:2]([H:3])([H:4])[C:5][O:6][C:7]#[C:8][C:9]([H:10])([H:11])[H:12],-4.05576630382
[H:1][O:2][C:3]/[C:4]([H:5])=[C:6]/[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:7]>>[H:1][O:2][C:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-4.85540569789
[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]#[C:11][C:12]([H:13])([H:14])[H:15]>>[C:10]#[C:11][C:12]([H:13])([H:14])[H:15].[H:1][C:2]([C:3]([H:4])([H:5])[H:6])=[C:7]([H:8])[H:9],2.96948805926
[C:7]([H:8])[H:9].[O:1][O:2][C:3]([H:4])([H:5])[C:6]=[C:10]([H:11])[H:12]>>[O:1][O:2][C:3]([H:4])([H:5])[C:6]([C:7]([H:8])[H:9])=[C:10]([H:11])[H:12],-6.326759904709999
[O:1]=[C:2]([H:3])[C:4]([H:5])[C:6]([H:7])=[C:8]([H:9])[H:10]>>[C:8]([H:9])[H:10].[O:1]=[C:2]([H:3])[C:4]([H:5])=[C:6][H:7],6.63665239082
[C:2][C:5]([H:6])([H:7])[C:8]#[C:9][H:10].[H:1][C:4]#[C:3]>>[H:1][C:2]#[C:3][C:4][C:5]([H:6])([H:7])[C:8]#[C:9][H:10],-5.901923936880001
[C:3][C:4]([H:5])([H:6])[C:7][O:8][H:9].[H:1][C:2]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7][O:8][H:9],-10.5391539568
[C:3]([H:4])([H:5])=[C:6][C:7]([H:8])([H:9])[O:10][H:11].[H:1][C:2]>>[H:1][C:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[O:10][H:11],-2.06435195053
[H:4].[O:1]1[C:2]([C@:5]([H:6])([C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13])[C:3]1>>[O:1]=[C:2]([C:3][H:4])[C@@:5]([H:6])([C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-3.62633321085
[C:1].[C:2]([H:3])([H:4])[O:5][C:6]([H:7])[C:8]#[C:9]>>[C:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])[C:8]#[C:9],-3.5372088690800005
[C:4]([O:5][H:6])[C:7]([H:8])([H:9])[H:10].[O:1][C:2][C:3]>>[O:1]=[C:2]=[C:3][C:4]([O:5][H:6])[C:7]([H:8])([H:9])[H:10],-5.96673254146
[C:3]([H:4])=[C:5]([H:6])[H:7].[O:1]=[C:2][C:8]([H:9])([H:10])[O:11][H:12]>>[O:1]=[C:2]([C:3]([H:4])=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][H:12],-4.25287783191
[H:1][O:2][C:3]([H:4])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13].[H:5]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13],-4.1988982560000006
[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])[H:7],3.75239099197
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])=[C:12]([H:13])[H:14]>>[C:10]([H:11])=[C:12]([H:13])[H:14].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9],4.34757140895
[H:1][C:2][O:3][C:4]([C:5]([H:6])=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:5]([H:6])=[C:7]([H:8])[H:9].[H:1][C:2][O:3][C:4][C:10]([H:11])([H:12])[H:13],5.46074949231
[H:1].[O:2][C@:3]([H:4])(/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][O:2][C@:3]([H:4])(/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-4.63221699691
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C:3]/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:4],4.1124018967
[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]=[C:13]([H:14])[H:15]>>[C:12]=[C:13]([H:14])[H:15].[H:1][O:2][C@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])[H:11],3.59908171567
[C:1][O:2][C:3]#[C:4].[H:5]>>[C:1][O:2][C:3]#[C:4][H:5],-4.4291873418000005
[C:9]([H:10])=[C:11]([H:12])[H:13].[H:1][O:2][C:3]([O:4][H:5])=[C:6]([H:7])[H:8]>>[H:1][O:2][C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13],-2.01078541237
[H:1][C:2]([H:3])=[C:4][O:5][C:6][C:7]([H:8])([H:9])[H:10]>>[H:1][C:2]#[C:4][O:5][C:6][C:7]([H:8])([H:9])[H:10].[H:3],2.43090992247
[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][O:2][C:3]([H:4])[H:5].[O:6]=[C:7]([H:8])[C:9]([H:10])([H:11])[H:12],0.6209015464800001
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]=[O:11]>>[C:10]=[O:11].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8][H:9],3.77459852122
[C:6]([H:7])#[C:8][O:9][C:10]([H:11])([H:12])[H:13].[H:1][C:2]([H:3])=[C:4][H:5]>>[H:1][C:2]([H:3])=[C:4]([H:5])/[C:6]([H:7])=[C:8]/[O:9][C:10]([H:11])([H:12])[H:13],-2.53720112415
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6](=[C:7])[C:11](=[C:8]([H:9])[H:10])[H:12]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]1[C:7]2[C:8]([H:9])([H:10])[C@@:11]12[H:12],-1.01878894207
[C:11]([H:12])([C:13]([H:14])([H:15])[H:16])[C:17]([H:18])([H:19])[H:20].[H:1][C:2]([H:3])([H:4])[C:5]([H:6])[C:7]([H:8])([H:9])[H:10]>>[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([C:13]([H:14])([H:15])[H:16])[C:17]([H:18])([H:19])[H:20],-3.5886976516400004
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10]/[O:11][H:12]>>[H:12].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]=[O:11],0.898601463567
